US07632837B2
1H. Preparation of 3-chloro-6-(2-chlorophenyl)-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazine
A suspension of 6-(2-chlorophenyl)-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (1.0 g, 2.8 mmol) in phosphorus oxychloride (10 mL) was stirred at 130° C. for 6 h. Analysis by HPLC/MS indicated the starting material had been consumed. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. The obtained residue was diluted with CH2Cl2, the resulting solution washed with saturated aqueous NaHCO3, saturated aqueous NaCl, dried (Na2SO4) and concentrated under reduced pressure to afford 1.1 g (100%) of the title compound as an off-white solid. HPLC/MS (method A): retention time=3.52 min, (M+H)+=375.0.

reactant | 6-(2-chlorophenyl)-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 2.8 mmol, 1.0 g | ClC1=C(C=CC=C1)C=1C(=CC=2N(N1)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O
reactant | phosphorus oxychloride | 10 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-chloro-6-(2-chlorophenyl)-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazine | 1.1 g, 100% | ClC1=NN=C2N1N=C(C(=C2)C2=CC=C(C=C2)Cl)C2=C(C=CC=C2)Cl | C17H9Cl3N4
